US04051252
Analogously to Example 1, 0.2 mol of 3-amino-4-chloroindazole in 100 ml of pyrocarbonic acid diethyl ester gives 3-amino-4-chloroindazole-2-carboxylic acid ethyl ester (melting point: 109°-111° C; 63% of theory) in 3 hours at 20°-30° C.

reactant | 3-amino-4-chloroindazole-2-carboxylic acid ethyl ester | C(C)OC(=O)N1N=C2C=CC=C(C2=C1N)Cl | C10H10ClN3O2
solvent | pyrocarbonic acid diethyl ester | 100 ml | C(C)OC(=O)OC(=O)OCC | C6H10O5
product | 3-amino-4-chloroindazole | 0.2 mol | NC1=NNC2=CC=CC(=C12)Cl | C7H6ClN3
